US07696224B2
3.1 A solution of 0.72 g of 3,4-diamino-2-chloropyridine, 0.9 g of 4-nitrophenyl isothiocyanate and 0.78 ml of N,N-diisopropylcarbodiimide in 30 ml of DMF is stirred at room temperature for 16 hours, then at 500 for 6 hours. The solvent is separated off, and the residue is crystallised from methanol, giving 1.2 g of 4-chloro-2-(4-nitrophenylamino)-3H-imidazo-[4,5-c]pyridine (“6”).

reactant | 3,4-diamino-2-chloropyridine | 0.72 g | NC=1C(=NC=CC1N)Cl | C5H6ClN3
reactant | 4-nitrophenyl isothiocyanate | 0.9 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=S | C7H4N2O2S
reactant | N,N-diisopropylcarbodiimide | 0.78 ml | CC(C)N=C=NC(C)C | C7H14N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-chloro-2-(4-nitrophenylamino)-3H-imidazo-[4,5-c]pyridine | 1.2 g | ClC1=NC=CC2=C1NC(=N2)NC2=CC=C(C=C2)[N+](=O)[O-] | C12H8ClN5O2
